US04163053
(a) 2-Benzyloxy-5-(2-[Benzyl-6-(N-Methylanilino)-2-Hexylamino]-1-Hydroxyethyl)Benzamide
To N-(5-benzylaminohexyl)-N-methylaniline (3.06 g= 10 mmol) and 3.48 g (10 mmol) 2-benzyloxy-5-(bromoacetyl)benzamide in 35 ml dimethylformamide, add 2.70 g (20 mmol) K2CO3. Stir 20 hrs. and pour into 150 ml water. Allow the gum to settle, decant, and dissolve the gum in ether. Extract with 1.0 N HCl, and then neutralize into NaHCO3 and extract with EtOAc. Dry, concentrate, and dissolve the oil in 50 ml ethanol. Add 0.3 g (8 mmol) NaBH4, stir 20 hrs., and concentrate. Partition between EtOAc and 1.0 N NaHCO3. Dry and concentrate to give a yellow foam.

reactant | N-(5-benzylaminohexyl)-N-methylaniline | 10 mmol, 3.06 g | C(C1=CC=CC=C1)NC(CCCCN(C1=CC=CC=C1)C)C | C20H28N2
reactant | 2-benzyloxy-5-(bromoacetyl)benzamide | 10 mmol, 3.48 g | C(C1=CC=CC=C1)OC1=C(C(=O)N)C=C(C=C1)C(CBr)=O | C16H14BrNO3
reactant | K2CO3 | 20 mmol, 2.70 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaBH4 | 8 mmol, 0.3 g | [BH4-].[Na+]
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 2-Benzyloxy-5-(2-[Benzyl-6-(N-Methylanilino)-2-Hexylamino]-1-Hydroxyethyl)Benzamide | C(C1=CC=CC=C1)OC1=C(C(=O)N)C=C(C=C1)C(CN(C(C)CCCCN(C1=CC=CC=C1)C)CC1=CC=CC=C1)O | C36H43N3O3
